US04302396
10 Grams of 4-methylphthalic anhydride, 0.1 g of iodine and 50 g of fuming sulfuric acid having the sulfuric anhydride content of 5 wt % were mixed, in which chlorine gas was blown at a feed rate of 7 ml/min with stirring. Feeding of chlorine gas was stopped when 0.062 mole of chlorine had been reacted with the anhydride. Then, the reaction mixture was poured into 250 g of water, cooled to effect precipitation. The precipitate was washed with a small amount of water and dried at 70° C. to give 9.2 g of a crude chlorinated product. Gas chromatographic analysis, conducted under the above-described conditions, revealed that the product consisted of 33.1 wt % of 5-chloro-4-methylphthalic acid, 42.8 wt % of 3-chloro isomer, 6.1 wt % of 3,5-dichloro compound, and 1.6 wt % of other compounds. Monosubstituted compounds were isolated from the crude mixture in the following manner. A mixture of 1 part of the crude product and 10 parts of xylene was heated at 90°-95° C. for 7 hours with stirring. The resulting hot mixture was then filtered to separate the mixture into a filtrate and solid mainly consisting of 5-chloro-4-methylphthalic acid. Xylene was distilled off from the filtrate and the distillation bottom was subjected to recrystallization with xylene several times, thereby obtaining substantially pure 3-chloro-4-methylphthalic anhydride in the form of colorless prismatic or pillared crystals. The 3-chloro product was found to have a melting point of 133°-135° C. The solid was added to xylene, which was refluxed to give a solution. The solution was cooled to effect precipitation. The resulting precipitate was subjected to repeated crystallization with xylene, thereby obtaining substantially pure (purity 99.9% or more by gas chromatographic analysis) 5-chloro-4-methylphthalic anhydride in the form of colorless hexahedral or thick platy crystals having a melting point of 152°-154° C. The chemical shifts, in terms of τ values, of the methyl group in proton NMR absorption spectrum of each of the monochloro products were found to be 7.42 ppm (in CDCl3).

reactant | 4-methylphthalic anhydride | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | iodine | 0.1 g | II | I2
reactant | sulfuric acid | 50 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric anhydride | [O-]S(=O)[O-]
reactant | chlorine | ClCl | Cl2
reactant | chlorine | 0.062 mole | ClCl | Cl2
reactant | 5-chloro-4-methylphthalic acid | ClC1=C(C=C(C(C(=O)O)=C1)C(=O)O)C | C9H7ClO4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 250 g | O | H2O
product | 3-chloro-4-methylphthalic anhydride | ClC1=C2C(C(=O)OC2=O)=CC=C1C | C9H5ClO3
